US06194425B1
1,1-Dimethylethyl N-{2-[(3-Nitro[1,5]naphthyridin-4-yl)amino]ethyl}carbamate
A solution of diisopropylethylamine (13.47 g, 0.10 mole) in dichloromethane (25 mL) was added to a solution of 5-chloro-3-nitro[1,5]naphthyridine (18.2 g, 0.086 mol) in dichloromethane (250 mL). A solution of tert-butyl N-(2-aminoethyl)carbamate (16.7 g, 0.10 mol) in dichloromethane (75 mL) was slowly added to the reaction mixture. The reaction mixture was heated at reflux overnight. Additional tert-butyl N-(2-aminoethyl)carbamate (1 g) was added and the reaction mixture was heated at reflux for an additional 3 hours. The reaction mixture was allowed to cool to ambient temperature and then it was diluted with additional dichloromethane, washed with water and with brine, dried, and then concentrated under vacuum to provide a dark solid. This solid was purified by flash chromatography (silica gel eluting with dichloromethane) to provide 24.8 g of 1,1-dimethylethyl N-{2-[(3-nitro[1,5]naphthyridin-4-yl)amino]ethylcarbamate as a canary yellow solid. A portion (0.3 g) was recrystallized from toluene (10 mL) and heptane (10 mL) to provide 0.2 g of canary yellow needles, m.p. 149-151° C. Analysis: Calculated for C15H19N5O4: % C, 54.05; % H, 5.75; % N, 21.01; Found: % C, 54.17; % H, 5.73; % N, 20.90.

reactant | diisopropylethylamine | 0.10 mole, 13.47 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-chloro-3-nitro[1,5]naphthyridine | 0.086 mol, 18.2 g | ClN1C=2C=C(C=NC2C=CC1)[N+](=O)[O-] | C8H6ClN3O2
reactant | tert-butyl N-(2-aminoethyl)carbamate | 0.10 mol, 16.7 g | NCCNC(OC(C)(C)C)=O | C7H16N2O2
reactant | tert-butyl N-(2-aminoethyl)carbamate | 1 g | NCCNC(OC(C)(C)C)=O | C7H16N2O2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | 1,1-Dimethylethyl N-{2-[(3-Nitro[1,5]naphthyridin-4-yl)amino]ethyl}carbamate | 0.2 g | [N+](=O)([O-])C=1C=NC2=CC=CN=C2C1NCCNC(OC(C)(C)C)=O | C15H19N5O4
